US06180622B2
2-(t-Butyldimethylsilyloxy)ethyl trifluoromethanesulfonate (63.5 mg) is added to a solution of 98.3 mg of allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-3-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate described in Example 20-b) in 1.0 ml of dry dichloroethane, and the mixture is stirred in an argon atmosphere at room temperature for 1.5 hr. The excess reagent is removed by evaporation under reduced pressure to give allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-[6-(2-t-butyldimethylsilyloxyethyl)imidazo[5,1-b]thiazolium-3-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate trifluoromethane sulfonate as a brown viscous material. Acetic acid (0.01 ml) and 0.18 ml of a 1 M tetra-n-butylammonium fluoride/THF solution are added to a solution of this compound in 1 ml of anhydrous THF, and the mixture is stirred in an argon atmosphere at room temperature for 1.5 hr. Dry ethanol (1 ml) is added thereto. Thereafter, 9.3 mg of triphenylphosphine, 0.038 ml of morpholine, and 11.3 mg of tetrakis(triphenylphosphine)palladium(0) are successively added to the mixture, and the mixture is then stirred in an argon atmosphere at room temperature for one hr. THF (10 ml) is added thereto, and the resultant precipitate is further washed twice with 5 ml of THF and dried in vacuo to give a yellow powder. The yellow powder is then purified by column chromatography on Cosmosil 40C18-PREP (water-methanol) and then passed through an anion exchange resin Amberlyst A-26 (Cl− form) to give 13.3 mg of the title compound as a colorless flocculent material.

reactant | 2-(t-Butyldimethylsilyloxy)ethyl trifluoromethanesulfonate | 63.5 mg | FC(S(=O)(=O)OCCO[Si](C)(C)C(C)(C)C)(F)F | C9H19F3O4SSi
reactant | allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-3-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 98.3 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC=1N2C(SC1)=CN=C2)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O6S2
solvent | dichloroethane | 1.0 ml | ClC(C)Cl | C2H4Cl2
product | allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-[6-(2-t-butyldimethylsilyloxyethyl)imidazo[5,1-b]thiazolium-3-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate trifluoromethane sulfonate | FC(S(=O)(=O)[O-])(F)F.C(C=C)OC(=O)N1C[C@H](C[C@H]1CC=1[N+]=2C(SC1)=CN(C2)CCO[Si](C)(C)C(C)(C)C)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C35H51N4O7S2Si.CHF3O3S/c1-10-13-44-33(42)30-31(22(3)29-28(23(4)40)32(41)39(29)30)48-26-17-24(37(18-26)34(43)45-14-11-2)16-25-20-47-27-19-36(21-38(25)27)12-15-46-49(8,9)35(5,6)7;2-1(3,4)8(5,6)7/h10-11,19-24,26,28-29,40H,1-2,12-18H2,3-9H3;(H,5,6,7)/q+1;/p-1/t22-,23-,24-,26+,28-,29-;/m1./s1
